US05304560
To a stirred suspension of 1-(3-carboxypropyl)-2,4(1H,3H)-quinazolinedione (2.00 g) in tetrahydrofuran (40 ml) was added 1M borane in tetrahydrofuran (24.2 ml) on an ice-bath, and the mixture was stirred for additional 2 hours at room temperature. The reaction mixture was quenched with 1N hydrochloric acid, and the organic solvent was evaporated. The residue was triturated with water, filtered and washed in turn with water and ethyl ether to give 1-(4-hydroxybutyl)-2,4(1H,3H)-quinazolinedione (1.74 g) as a crystal.

reactant | 1-(3-carboxypropyl)-2,4(1H,3H)-quinazolinedione | 2.00 g | C(=O)(O)CCCN1C(NC(C2=CC=CC=C12)=O)=O | C12H12N2O4
reactant | borane | 1M | B | BH3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24.2 ml | O1CCCC1 | C4H8O
product | 1-(4-hydroxybutyl)-2,4(1H,3H)-quinazolinedione | 1.74 g | OCCCCN1C(NC(C2=CC=CC=C12)=O)=O | C12H14N2O3
